US05066679
3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-(2-oxo-2-phenylethyl)propanamide
Acryloyl chloride (2 ml) was added to a cold (5°) solution of 2-aminoacetophenone hydrochloride (4.6 g, 27 mmole) and triethylamine (7 ml) in dichloromethane (25 ml) and the mixture was stirred at room temperature. An additional 7 ml of triethylamine was added. After one hour, 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (11 g, 46 mmole) was added and the mixture heated to reflux. The mixture was allowed to cool to room temperature and the reaction mixture was washed sequentially with 10% hydrochloric acid and water, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatography on silica gel and recrystallization from ethyl acetate gave the title compound, m.p. 146°-148°. Analysis. Calcd. for C25H33NO3S: C, 70.22; H, 7.78; N, 3.28; S, 7.22. Found: C, 69.95; H, 7.93; N, 3.20; S, 7.62.

reactant | Acryloyl chloride | 2 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | 2-aminoacetophenone hydrochloride | 27 mmole, 4.6 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 46 mmole, 11 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]-N-(2-oxo-2-phenylethyl)propanamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NCC(C1=CC=CC=C1)=O | C25H33NO3S
